US09056859B2
Step B: 4-(2-[4-(methylsulfanyl)-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-ium chloride
In a 12 mL reaction vial, was added tert-butyl 4-(2-[4-(methylsulfanyl)-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate (25 mg, 0.064 mmol) and 4 N HCl in dioxane (1 mL). The reaction was stirred at r. t. for 18 hr. The reaction mixture was concentrated to give the desired product.

reactant | tert-butyl 4-(2-[4-(methylsulfanyl)-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 0.064 mmol, 25 mg | CSC1=C(C=CC=2C(OCC21)=O)CCN2CCN(CC2)C(=O)OC(C)(C)C | C20H28N2O4S
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-(2-[4-(methylsulfanyl)-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-ium chloride | [Cl-].CSC1=C(C=CC=2C(OCC21)=O)CCN2CC[NH2+]CC2 | InChI=1S/C15H20N2O2S.ClH/c1-20-14-11(4-7-17-8-5-16-6-9-17)2-3-12-13(14)10-19-15(12)18;/h2-3,16H,4-10H2,1H3;1H
